US06326359B1
N-(9-[(2R,3R,4R,5R)-3,4-Bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-2-{[(1-methyl-4-piperidinyl)oxy]methyl}-9H-purin-6-yl)-N-(2,2-diphenylethyl)amine
Sodium hydride (42 mg of an 80% dispersion in mineral oil, 1.4 mmol) was added to a stirred solution of {9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl methanesulfonate (preparation 16) (540 mg, 0.7 mmol) and 1-methyl-4-piperidinol (160 mg, 1.4 mmol) in tetrahydrofuran (10 ml). The reaction mixture was heated at reflux for 24 hr and then the solvent removed under reduced pressure to give a residue which was purified by column chromatography on silica gel eluting with dichloromethane:methanol (95:5) to give the title compound (68 mg). MS: 818 (MH+).

reactant | Sodium hydride | [H-].[Na+]
reactant | {9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl methanesulfonate | 0.7 mmol, 540 mg | CS(=O)(=O)OCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C39H59N5O7SSi2
reactant | 1-methyl-4-piperidinol | 1.4 mmol, 160 mg | CN1CCC(CC1)O | C6H13NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(9-[(2R,3R,4R,5R)-3,4-Bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-2-{[(1-methyl-4-piperidinyl)oxy]methyl}-9H-purin-6-yl)-N-(2,2-diphenylethyl)amine | 68 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)COC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)COC1CCN(CC1)C | C44H68N6O5Si2
